US08211927B2
To a mixture of 4-chloro-5-(4-(trifluoromethyl)phenyl)isoxazole-3-carboxylic acid (0.33 g, 1.13 mmol), oxalyl chloride (0.45 mL, 5.16 mmol) and dichloromethane (10 mL) was added a drop of N,N-dimethylformamide. The reaction mixture was stirred at room temperature for 6 hours. The volatiles were removed in vacuo to obtain 4-chloro-5-(4-(trifluoromethyl)phenyl)isoxazole-3-carbonyl chloride (0.34 g, 1.1 mmol)

reactant | 4-chloro-5-(4-(trifluoromethyl)phenyl)isoxazole-3-carboxylic acid | 1.13 mmol, 0.33 g | ClC=1C(=NOC1C1=CC=C(C=C1)C(F)(F)F)C(=O)O | C11H5ClF3NO3
reactant | oxalyl chloride | 5.16 mmol, 0.45 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 4-chloro-5-(4-(trifluoromethyl)phenyl)isoxazole-3-carbonyl chloride | 1.1 mmol, 0.34 g | ClC=1C(=NOC1C1=CC=C(C=C1)C(F)(F)F)C(=O)Cl | C11H4Cl2F3NO2
